US06413995B1
A suspension of 4-formylcinnamic acid (1.76 g), p-methoxybenzyl chloride (1.63 ml) and potassium carbonate (2.76 g) in 20 ml dimethylformamide was stirred at 80° C. for 7 hours, and then allowed to cool. The reaction mixture was extracted with ethyl acetate and washed with water. The combined organic layers were dried over magnesium sulfate. The drying agent was filtered off and the filtrate was evaporated under reduced pressure and dried to give p-anisyl 4formylcinnamate of interest (2.96 g, 100%) as a pale yellow solid.

reactant | 4-formylcinnamic acid | 1.76 g | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | p-methoxybenzyl chloride | 1.63 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | p-anisyl 4formylcinnamate | C(=O)C1=CC=C(C=CC(=O)OCC2=CC=C(C=C2)OC)C=C1 | C18H16O4
